US03976653
A mixture of 6.92 g. of cis-1,2,3,4,4a,5,10,10a-octahydro-5,5-dimethylbenzo[g]quinolin-7-ol, 2.52 g. of sodium bicarbonate, 2.98 g. of 2-methyl-2-propenyl chloride, and 60 ml. of N,N-dimethylformamide was stirred and refluxed for 1 hour. The reaction mixture was worked up in a manner similar to that described above in Example 11 to yield crude cis-1,2,3,4,4a,5,10,10a-octahydro-1-(2-methyl-2-propenyl)-5,5-dimethylbenzo[g]quinolin-7-ol. A 1.7 g. portion of the partially purified base was chromatographed on 170 g. of alumina (6% water) using diethyl ether as eluant, and the resulting syrupy product (1.3 g.) was recrystallized from hexane to yield 1.0 g. of the pure base as an off-white solid melting at 129°-131°C.

reactant | cis-1,2,3,4,4a,5,10,10a-octahydro-5,5-dimethylbenzo[g]quinolin-7-ol | CC1([C@H]2CCCN[C@H]2CC2=C1C=C(C=C2)O)C | C15H21NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 2-methyl-2-propenyl chloride | CC(CCl)=C | C4H7Cl
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | cis-1,2,3,4,4a,5,10,10a-octahydro-1-(2-methyl-2-propenyl)-5,5-dimethylbenzo[g]quinolin-7-ol | CC(CN1CCC[C@@H]2C(C3=C(C[C@H]12)C=CC(=C3)O)(C)C)=C | C19H27NO
